US07157455B2
N-Methanesulfonyl-1,2,3,6-tetrahydro-pyridine
To a stirred solution of 1,2,3,6-tetrahydropyridine (1.5 g, 18.04 mmol, Aldrich) and triethylamine (36.12 mmol, 5.05 mL) in methylene chloride (60 mL) at 0° C., methane sulfonyl chloride (1.82 mL, 23.45 mmol, Aldrich) was added and the mixture was stirred for 2.5 hours. The reaction was quenched with water and the mixture was extracted with methylene chloride. The extracts were dried with MgSO4 and the solvent was removed under reduced pressure to give the desired product as an off-white solid. 2.20 g, 76%. MS (ES) MH+=162.

reactant | 1,2,3,6-tetrahydropyridine | 18.04 mmol, 1.5 g | N1CCC=CC1 | C5H9N
reactant | triethylamine | 36.12 mmol, 5.05 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 23.45 mmol, 1.82 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | N-Methanesulfonyl-1,2,3,6-tetrahydro-pyridine | CS(=O)(=O)N1CCC=CC1 | C6H11NO2S
